US07750155B2
A mixture of (2E)-3-[5-({(3R)-1-[2-(3-fluorophenyl)ethyl]-3-pyrrolidinyl}amino)-2-pyrazinyl]acrylic acid (226 mg) and 2-(aminooxy)tetrahydro-2H-pyran and WSCD-HCl was stirred for 24 hours at ambient temperature. CH2Cl2 was added the mixture. The CH2Cl2 layer was washed with water and evaporated in vacuo. The residue was chromatographed on silica gel using a mixture of CHCl3-MeOH (10:1) to give (2E)-3-[5-({(3R)-1-[2-(3-fluorophenyl)ethyl]-3-pyrrolidinyl}amino)-2-pyrazinyl]-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide (160 mg) as a solid.

reactant | (2E)-3-[5-({(3R)-1-[2-(3-fluorophenyl)ethyl]-3-pyrrolidinyl}amino)-2-pyrazinyl]acrylic acid | 226 mg | FC=1C=C(C=CC1)CCN1C[C@@H](CC1)NC=1N=CC(=NC1)/C=C/C(=O)O | C19H21FN4O2
reactant | 2-(aminooxy)tetrahydro-2H-pyran | NOC1OCCCC1 | C5H11NO2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (2E)-3-[5-({(3R)-1-[2-(3-fluorophenyl)ethyl]-3-pyrrolidinyl}amino)-2-pyrazinyl]-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide | 160 mg | FC=1C=C(C=CC1)CCN1C[C@@H](CC1)NC=1N=CC(=NC1)/C=C/C(=O)NOC1OCCCC1 | C24H30FN5O3
